US05246915
1-(1,2,3,4-Tetrahydronaphthalen-1-yl)-5-imidazolecarboxylic acid methyl ester (compound 1.02)
33.0 g of ammonium carbonate are added at room temperature to a solution of 15.5 g of N,α-bis-formyl-N-(1,2,3,4-tetrahydronaphthalen-1-yl)glycine methyl ester in 300 ml of xylene. The mixture is heated to 70° C. for 1 hour then the temperature is raised to 120° C. for 3 hours. After concentration the 1-(1,2,3,4-tetrahydronaphthalen-1-yl)-5-imidazolecarboxylic acid methyl ester precipitates from the solution, having a melting point of 63° C.

reactant | ammonium carbonate | 33.0 g | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | N,α-bis-formyl-N-(1,2,3,4-tetrahydronaphthalen-1-yl)glycine methyl ester | 15.5 g | COC(C(N(C1CCCC2=CC=CC=C12)C=O)C=O)=O | C15H17NO4
solvent | xylene | 300 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 1-(1,2,3,4-Tetrahydronaphthalen-1-yl)-5-imidazolecarboxylic acid methyl ester | COC(=O)C1=CN=CN1C1CCCC2=CC=CC=C12 | C15H16N2O2
